US04964870
III. Synthesis of 1,3 Dihexanoyloxybenzene
In a reaction vessel, resorcinol is placed with an equimolar amount of hexanoic acid anhydride (from Aldrich Chemicals). Concentrated sulfuric acid (98%) is added to the solution and heated at 100° C. for 3 hours. A crude reaction product was obtained from this acid catalysis containing the 1,3 dihexanoyloxybenzene (resorcinol dihexanoate) and hexanoic acid.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | hexanoic acid anhydride | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1,3 dihexanoyloxybenzene (resorcinol dihexanoate) | C=1(O)C(=C(O)C(=CC1)CCCCCC(=O)O)CCCCCC(=O)O.C(CCCCC)(=O)OC1=CC(=CC=C1)OC(CCCCC)=O
reactant | hexanoic acid | C(CCCCC)(=O)O | C6H12O2
product | 1,3 Dihexanoyloxybenzene | C(CCCCC)(=O)OC1=CC(=CC=C1)OC(CCCCC)=O | C18H26O4
